US09340556B2
To a suspension of ethyl 2-(2-aminothiazol-4-yl)-2-oxoacetate (30 g, 150 mmol) in Dichloromethane (DCM) (500 mL) was added (Boc)2O (48.7 mL, 210 mmol) and DABCO (16.81 g, 150 mmol). The mixture was stirred at rt overnight. LCMS indicated completion of the reaction. Solvent was removed under vacuum, and to the resulting residue was added a pre-cooled solution of 2M NaOH (300 mL, 599 mmol) and the mixture was stirred in ice bath for 2 h. Iced Water (250 mL) was added, and the mixture was carefully acidified with 6N HCl (aq) to pH=1. The precipitated material was collected by filtration, washed with water, and dried in vacuo to afford 2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)-2-oxoacetic acid (33.5 g, 123 mmol, 82% yield) as pale yellow solid. LCMS: (M+Na)+: 295.0

reactant | ethyl 2-(2-aminothiazol-4-yl)-2-oxoacetate | 150 mmol, 30 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | (Boc)2O | 210 mmol, 48.7 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DABCO | 150 mmol, 16.81 g | C1CN2CCN1CC2 | C6H12N2
reactant | NaOH | 599 mmol, 2M, 300 mL | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | Dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | Water | 250 mL | O | H2O
product | 2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)-2-oxoacetic acid | 123 mmol, 33.5 g, 82% yield | C(C)(C)(C)OC(=O)NC=1SC=C(N1)C(C(=O)O)=O | C10H12N2O5S
